US07776874B2
Step B: 1-[4-(1H-pyrazol-1-yl)phenyl]cyclopropanecarboxylic acid
Trifluoroacetic acid (1.0 mL) was added to butyl 1-[4-(1H-pyrazol-1-yl)phenyl]cyclopropanecarboxylate (60 mg) in methylene chloride (1.0 mL). The mixture was stirred at room temperature overnight, and then concentrated to give a crude product which was directly used in the reaction of next step without further purification.

reactant | Trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | butyl 1-[4-(1H-pyrazol-1-yl)phenyl]cyclopropanecarboxylate | 60 mg | N1(N=CC=C1)C1=CC=C(C=C1)C1(CC1)C(=O)OCCCC | C17H20N2O2
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(1H-pyrazol-1-yl)phenyl]cyclopropanecarboxylic acid | N1(N=CC=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C13H12N2O2
